US07799918B2
Preparation of N-(2-chloro-pyridin-3-yl)-N-methyl-2-trifluoromethyl-benzamide
8.0 g N-(2-chloro-pyridin-3-yl)-2-trifluoromethyl-benzamide (26.6 mmol), 1.1 g potassium carbonate (K2CO3) (80 mmol), and 100 mL ethanol were added and stirred in a round-bottomed flask. 5.7 g methyl iodide (MeI) (40 mmol) was then added and reacted for 12 hr. After cooling to room temperature, the reaction was quenched by water. After extraction three times by ethyl acetate, removal of water by magnesium sulphate (MgSO4), concentration, and purification by column, 8.3 g white solid was obtained, with a yield of 88%.

reactant | N-(2-chloro-pyridin-3-yl)-2-trifluoromethyl-benzamide | 26.6 mmol, 8.0 g | ClC1=NC=CC=C1NC(C1=C(C=CC=C1)C(F)(F)F)=O | C13H8ClF3N2O
reactant | potassium carbonate | 80 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 40 mmol, 5.7 g | CI | CH3I
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-(2-chloro-pyridin-3-yl)-N-methyl-2-trifluoromethyl-benzamide | 8.3 g, yield of 88% | ClC1=NC=CC=C1N(C(C1=C(C=CC=C1)C(F)(F)F)=O)C | C14H10ClF3N2O
